US06265349B1
Preparation of 5-(4-chloro-2-fluoro-5-cyclopentyloxyphenyl)-1-methyl-2-trifluoromethyl-4(1H)-pyridone (Compound No. 6-14)
To 3 ml of THF, 0.30 g (0.93 mmol) of 5-(4-chloro-2-fluoro-5-hydroxyphenyl)-1-methyl-2-trifluoromethyl-4(1H)-pyridone, 0.37 g (1.4 mmol) of triphenylphosphine and 0.12 g (1.4 mmol) of cyclopentanol were added, and 0.2 g (1.1 mmol) of diethyl azodicarboxylate was dropwise added thereto under cooling with ice. The mixture was stirred at room temperature for 2 hours. Then, this reaction solution was poured into water and extracted with ethyl acetate. After washing with water, the organic layer was dried over anhydrous magnesium sulfate. Ethyl acetate was distilled off under reduced pressure, and then, the obtained residue was purified by silica gel column chromatography to obtain 0.30 g (yield: 83%) of the desired product. Melting point: 152-154° C.

reactant | 5-(4-chloro-2-fluoro-5-hydroxyphenyl)-1-methyl-2-trifluoromethyl-4(1H)-pyridone | 0.93 mmol, 0.30 g | ClC1=CC(=C(C=C1O)C=1C(C=C(N(C1)C)C(F)(F)F)=O)F | C13H8ClF4NO2
reactant | triphenylphosphine | 1.4 mmol, 0.37 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | cyclopentanol | 1.4 mmol, 0.12 g | C1(CCCC1)O | C5H10O
reactant | diethyl azodicarboxylate | 1.1 mmol, 0.2 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | water | O | H2O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 5-(4-chloro-2-fluoro-5-cyclopentyloxyphenyl)-1-methyl-2-trifluoromethyl-4(1H)-pyridone | 0.30 g, yield: 83% | ClC1=CC(=C(C=C1OC1CCCC1)C=1C(C=C(N(C1)C)C(F)(F)F)=O)F | C18H16ClF4NO2
